US07727985B2
Intermediate 3: 7-fluoro-9H-β-carboline
7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline (3.5 g, 18.42 mmol) was suspended in xylenes (60 ml) in a 250 ml round-bottom flask equipped with a condenser that was open to the atmosphere, and heated. To this hot reaction mixture was added Pd/C (10 wt %, 0.2 eq, 700 mg) and the mixture refluxed in xylenes overnight (12-14 hours). The solution was then filtered through a pad of celite and the collected filtrate was then evaporated on a rotary evaporator to give the desired product as a brown/tan solid (3.0 g, 88% yield).

reactant | 7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline | 18.42 mmol, 3.5 g | FC1=CC=C2C=3CCNCC3NC2=C1 | C11H11FN2
catalyst | Pd/C | 700 mg, 0.2 eq | [Pd] | Pd
product | 7-fluoro-9H-β-carboline | 3.0 g, 88% yield | FC1=CC=C2C=3C=CN=CC3NC2=C1 | C11H7FN2
